US07256198B2
Step 2: {(2S)-1-[(3′,3′-Dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate
A solution of {(2S)-1-[(3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methanol (0.100 g, 2.300 mmol), p-toluenesulfonyl chloride (0.070 g, 0.340 mmol), N,N-diisopropylethylamine (0.100 ml, 0.580 mmol) and 4-(dimethylamino)pyridine (0.020 g, 0.070 mmol) in CH2Cl2 (5 mL) was stirred at rt for 2 days. The reaction was poured into brine and extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated to give the title compound as a white foam (0.132 g, 97% ). Anal: Calc'd for C28H35N3O7S2: C, 57.03; H, 5.98; N, 7.13. Found: C, 56.38; H, 5.65; N, 6.81. NMR (400 Mz, DMSO-d6): consistent. MS: (ESI+) m/z 590.3 [M+H].

reactant | {(2S)-1-[(3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methanol | 2.300 mmol, 0.100 g | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)S(=O)(=O)N3[C@@H](CCC3)CO)C1)C | C21H29N3O5S
reactant | p-toluenesulfonyl chloride | 0.340 mmol, 0.070 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N,N-diisopropylethylamine | 0.580 mmol, 0.100 ml | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-(dimethylamino)pyridine | 0.070 mmol, 0.020 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | {(2S)-1-[(3′,3′-Dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)sulfonyl]pyrrolidin-2-yl}methyl 4-methylbenzenesulfonate | 0.132 g, 97% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C3(C=4N(C2C=C1)CC(CN4)(C)C)OCCCO3 | C28H35N3O7S2
